US06478979B1
HCF2CF2C(O)CF(CF3)2—1,1,1,2,4,4,5,5-Octafluoro-2-trifluoromethylpentan-3-one
The final ketone product, 1,1,1,2,4,4,5,5-octafluoro-2-trifluoromethylpentan-3-one, was prepared by fluoride-catalyzed addition of hexafluoropropylene to HC2F4C(O)F using essentially the same procedure as described by R. D. Smith et al. in J. Am. Chem. Soc., 84, 4285 (1962). The resulting fluorinated ketone product had a boiling point of 70-71° C.

reactant | 1,1,1,2,4,4,5,5-octafluoro-2-trifluoromethylpentan-3-one | FC(C(C(C(C(F)F)(F)F)=O)(C(F)(F)F)F)(F)F | C6HF11O
reactant | fluoride | [F-]
reactant | hexafluoropropylene | FC(C(=C(F)F)F)(F)F | C3F6
product | HCF2CF2C(O)CF(CF3)2 1,1,1,2,4,4,5,5-Octafluoro-2-trifluoromethylpentan-3-one | C(F)(F)C(F)(F)C(=O)C(F)(C(F)(F)F)C(F)(F)F.FC(C(C(C(C(F)F)(F)F)=O)(C(F)(F)F)F)(F)F | 2C6HF11O
